US09169270B2
Synthesis of (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-(cyclopropanecarbonyl-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester
To a solution of cyclopropanecarboxylic acid (5 μL, 60 μmol, 1 eq.) in DMF (5 mL), DIPEA (51 μL, 300 μmol, 5 eq.) and TBTU (19 mg, 60 μmol, 1 eq.) were added in sequence. The resulting solution was stirred at r.t. for 30 minutes. Then (±)-2-amino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (30 mg, 60 μmol, 1 eq.) was added and the resulting mixture was stirred at r.t. for 18 hours. The reaction mixture was concentrated in vacuo. The residue was purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound as a colorless oil.

reactant | cyclopropanecarboxylic acid | 60 μmol, 5 μL, 1 eq. | C1(CC1)C(=O)O | C4H6O2
reactant | DIPEA | 300 μmol, 51 μL, 5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 60 μmol, 19 mg, 1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (±)-2-amino-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 60 μmol, 30 mg, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)N)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C24H24ClN3O5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-(cyclopropanecarbonyl-amino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)NC(=O)C2CC2)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C28H28ClN3O6S
